US08314087B2
5-Bromo-1-(2-hydroxyethyl)pyrazin-2(1H)-one.
The crude 5-bromo-1-(2-(tert-butyldimethylsilyloxy)ethyl)pyrazin-2(1H)-one was dissolved in MeOH (30 mL) and concentrated HCl (0.15 mL) was added, and the reaction was stirred at room temperature. After 1 hour, the reaction was quenched with saturated sodium bicarbonate (3 mL) and then concentrated. The concentrate was treated with 5:1 CH2Cl2/MeOH and filtered. The filtrate was concentrated, and put on high vacuum in water bath (50° C.). This solid was washed with hexanes (50 mL) in portions, and then put on high vacuum again to afford the desired product (870.8 mg, 3.98 mmol, 90% purity, 52% yield over two steps). MS (ESI pos. ion) m/z (MH+): 219 (79Br), 221 (81Br). Calc'd exact mass for C18H13BrFN3O2: 218 (79Br), 220 (81Br). 1H NMR (400 MHz, CDCl3): 8.01 (s, 1H), 7.49 (s, 1H), 5.33 (br s, 1H), 4.08 (t, J=4.5 Hz, 2H), 3.96 (t, J=4.5 Hz, 2H).

reactant | 5-bromo-1-(2-(tert-butyldimethylsilyloxy)ethyl)pyrazin-2(1H)-one | BrC=1N=CC(N(C1)CCO[Si](C)(C)C(C)(C)C)=O | C12H21BrN2O2Si
reactant | HCl | 0.15 mL | Cl | ClH
solvent | MeOH | 30 mL | CO | CH4O
product | 5-Bromo-1-(2-hydroxyethyl)pyrazin-2(1H)-one | 3.98 mmol, 870.8 mg, 52% yield | BrC=1N=CC(N(C1)CCO)=O | C6H7BrN2O2
